US08039472B2
A solution of {(S)-1-Aminomethyl-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-3,3-dimethyl-pentyl}-carbamic acid tert-butyl ester (0.13 g, 0.28 mmol) and TFA (1 ml) in DCM (5 ml) is stirred at room temperature for 1 hour, then loaded onto an SCX-2 cartridge which has been pre-eluted with MeOH. The cartridge is eluted with MeOH (2×5 ml), followed by 7M NH3 in MeOH (2×5 ml) to yield (S)-3-[4-((S)-5,6-Diamino-3,3-dimethyl-hexyl)-phenoxy]-propane-1,2-diol in 80% purity as a colourless oil; [M+H]+ 311

reactant | {(S)-1-Aminomethyl-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-3,3-dimethyl-pentyl}-carbamic acid tert-butyl ester | 0.28 mmol, 0.13 g | C(C)(C)(C)OC(N[C@@H](CC(CCC1=CC=C(C=C1)OC[C@H]1OC(OC1)(C)C)(C)C)CN)=O | C25H42N2O5
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-[4-((S)-5,6-Diamino-3,3-dimethyl-hexyl)-phenoxy]-propane-1,2-diol | N[C@@H](CC(CCC1=CC=C(OC[C@H](CO)O)C=C1)(C)C)CN | C17H30N2O3
